US05436247
A solution of HCl in ethanol (23%, 0.172g) was added dropwise to a suspension of 6,7-dimethoxy-4-(3-isopropoxy-4-methoxyphenyl)-2-(1,2,4-triazol-1-ylmethyl) quinoline-3-carboxylic acid ethyl ester (0.5 g) in ethanol (10ml)-dichloromethane (2 ml) at room temperature. The mixture was stirred at the same temperature for 15 minutes and concentrated under reduced pressure. The residue was treated with isopropyl ether to yield solid, which was recrystallized from ethanol to yield 6,7-dimethoxy-4-(3-isopropoxy-4-methoxyphenyl)-2-(1,2,4-triazol-1-ylmethyl) quinoline-3-carboxylic acid ethyl ester hydrochloride (0.211g, 39%) as yellow crystals having melting point of 93 to 95° C.

reactant | HCl | Cl | ClH
reactant | 6,7-dimethoxy-4-(3-isopropoxy-4-methoxyphenyl)-2-(1,2,4-triazol-1-ylmethyl) quinoline-3-carboxylic acid ethyl ester | 0.5 g | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC(C)C)OC)OC)CN1N=CN=C1 | C27H30N4O6
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethanol | 0.172g | C(C)O | C2H6O
solvent | ethanol | 10ml | C(C)O | C2H6O
product | 6,7-dimethoxy-4-(3-isopropoxy-4-methoxyphenyl)-2-(1,2,4-triazol-1-ylmethyl) quinoline-3-carboxylic acid ethyl ester hydrochloride | 0.211g, 39% | Cl.C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC(C)C)OC)OC)CN1N=CN=C1 | InChI=1S/C27H30N4O6.ClH/c1-7-36-27(32)26-20(13-31-15-28-14-29-31)30-19-12-23(35-6)22(34-5)11-18(19)25(26)17-8-9-21(33-4)24(10-17)37-16(2)3;/h8-12,14-16H,7,13H2,1-6H3;1H
